//============================================================================
// Resistor (or RC Wire)
// Rxx N1 N2
//      [MOD[EL]=MNAME] [VAL] [[TC1=]T1] [[TC2=]T2] [[TC3=]T3]
//    + [AC=VAL|{EXPR}] [T[EMP]=VAL] [DTEMP=VAL] [M=VAL] [L=VAL] [W=VAL]
//    + [STATISTICAL=0|1] [KEEPRMIN] [NONOISE] [KF=VAL] [AF=VAL] [WEEXP=VAL]
//    + [LEEXP=VAL] [FEXP=VAL] [FMIN=VAL] [FMAX=VAL] [NBF=VAL]
//
//      [MOD[EL]=MNAME] VALUE={EXPR} [ACDERFUNC=0|1]
//    + [RESTORE_CAUSALITY=0|1] [[TC1=]T1] [[TC2=]T2] [[TC3=]T3] [AC=VAL]
//    + [T[EMP]=VAL] [DTEMP=VAL] [M=VAL] [STATISTICAL=0|1] [KEEPRMIN] [NONOISE]
//    + [KF=VAL] [AF=VAL] [WEEXP=VAL] [LEEXP=VAL] [FEXP=VAL] [FMIN=VAL]
//    + [FMAX=VAL] [NBF=VAL] [FIT=0|1] [CFMAX=VAL] [CDELF=VAL]
//
//      [[TC1=]T1] [[TC2=]T2] [[TC3=]T3] [AC=VAL] [T[EMP]=VAL]
//    + [DTEMP=VAL] [M=VAL] [KF=VAL] [AF=VAL] [WEEXP=VAL] [LEEXP=VAL]
//    + [FEXP=VAL] [FMIN=VAL] [FMAX=VAL] [NBF=VAL] [STATISTICAL=0|1]
//    + TABLE EXPR [KEEPRMIN] [NONOISE]
//
//      POLY VAL {COEF} [TC1=T1] [TC2=T2] [TC3=T3] [STATISTICAL=0|1]
// RC Wire
//      MNAME [[R=]VAL] [TC1=VAL] [TC2=VAL] [C=VAL] [CRATIO=VAL]
//    + [L=VAL] [W=VAL] [M=VAL] [T[EMP]=VAL] [DTEMP=VAL] [SCALE=VAL]
//    + [STATISTICAL=0|1]
//============================================================================
r1 1 2 res1
r2 1 2 res1